US03987047
2,3,4,5-tetrahydro-11-methyl-2-propyl-1H-azepino[4,3-b]quinoline and their dihydrochlorides were prepared from 4-ethoxy-1,2,6,7-tetrahydro-1-propyl-5H-azepine and 2amino-acetophenone analogous to Example 217. Yield of the dihydrochloride of the [4,5-b]-isomer: 15% of theory; m.p. 245-246° C. Yield of the dihydrochloride of the [4,3-b]-isomer: 10% of theory; m.p. 282° C.

reactant | 4-ethoxy-1,2,6,7-tetrahydro-1-propyl-5H-azepine | C(C)OC1=CCN(CCC1)CCC | C11H21NO
reactant | 2amino-acetophenone | NCC(=O)C1=CC=CC=C1 | C8H9NO
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | 2,3,4,5-tetrahydro-11-methyl-2-propyl-1H-azepino[4,3-b]quinoline | CC1=C2C(=NC=3C=CC=CC13)CCCN(C2)CCC | C17H22N2
